US04747953
Poly[N-vinylimidazole-N-vinylpyrrolidinone] was prepared by charging 23.5 grams (0.250 moles) of N-vinylimidazole, 83.25 grams (0.750 moles) of N-vinylpyrrolidinone and 1.0 grams of AIBN to a one liter reaction vessel along with 450 ml of water. The reaction was stirred and heated to a temperature of 75° C. under a nitrogen atmosphere for a period of one hour. At the end of this time, the reaction mixture was allowed to cool to room temperature and after reaching room temperature, the copolymer was precipitated out of solution by adding the solution to 1,4-dioxane. The precipitated copolymer was dried for a period of 16 hours in a vacuum oven at 60° C. to yield 84.40 grams of copolymer.

reactant | N-vinylimidazole | 0.250 moles, 23.5 grams | C(=C)N1C=NC=C1 | C5H6N2
reactant | N-vinylpyrrolidinone | 0.750 moles, 83.25 grams | C(=C)N1C(CCC1)=O | C6H9NO
reactant | AIBN | 1.0 grams | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | water | 450 ml | O | H2O
product | N-vinylimidazole N-vinylpyrrolidinone | C(=C)N1C=NC=C1.C(=C)N1C(CCC1)=O | InChI=1S/C6H9NO.C5H6N2/c1-2-7-5-3-4-6(7)8;1-2-7-4-3-6-5-7/h2H,1,3-5H2;2-5H,1H2
